US05081246
(n=2, m=1, Aryl=4-chlorophenyl) N-[2-(4-Chlorocinnamylamino)ethyl]-5-isoquinolinesulfonamide
2.01 g of N-(2-aminoethyl)-5-isoquinolinesulfonamide was dissolved in 30 ml of methanol, to the solution was added 1.60 g of p-chlorocinnamaldehyde, and the mixture was stirred for one hour at a room temperature. After an addition of 350 mg of sodium tetrahydrideborate in portions with ice cooling, the mixture was stirred for 30 minutes. After an addition of ethyl acetate, the reaction mixture was sequentially washed three times with water, and then twice with a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. The mixture was filtered and evaporated to remove the solvent under a reduced pressure. A residue was purified using a silica gel column (silica gel 80 g, eluant: 5% methanol in chloroform), and resulting crystals were washed with benzene/hexane (1:1), to obtain 2.30 g of the title compound as colorless crystals.

reactant | N-(2-aminoethyl)-5-isoquinolinesulfonamide | 2.01 g | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C11H13N3O2S
reactant | p-chlorocinnamaldehyde | 1.60 g | ClC1=CC=C(C=CC=O)C=C1 | C9H7ClO
reactant | sodium | 350 mg | [Na] | Na
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
product | N-[2-(4-Chlorocinnamylamino)ethyl]-5-isoquinolinesulfonamide | 2.30 g | ClC1=CC=C(C=CCNCCNS(=O)(=O)C=2C=3C=CN=CC3C=CC2)C=C1 | C20H20ClN3O2S
